US06605600B1
2-[3-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.2.1]oct-8-yl]-malonic acid
8-(8-Hydroxy-bicyclo[3.2.1]oct-3-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione (30 mg) taken in CHCl3 (5 ml). To this solution Meldrum's acid (58 mg), piperidine (10 mg) were added and heated to reflux overnight. The next day, after cooling to room temperature, diluted with ethyl acetate, washed with 1N HCl, sat NaHCO3, brine, and dried. The solvent was removed under reduced pressure, the crude residue was taken up in MeOH, cooled to 0° C., NaBH4 (30 mg) was added, the mixture was stirred for 15 min. The reaction was diluted with 1N HCl, extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated. The residue was taken up in THF (5 ml) and 4N HCl (5 ml) was added and stirred for 1 day. The reaction mixture was extracted with ethyl acetate, washed with brine, and concentrated. The crude product was purified by HPLC. Yield (6 mg). Mass (ES+ 447).

reactant | 8-(8-Hydroxy-bicyclo[3.2.1]oct-3-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 30 mg | OC1C2CC(CC1CC2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C19H28N4O3
reactant | Meldrum's acid | 58 mg | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | piperidine | 10 mg | N1CCCCC1 | C5H11N
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.2.1]oct-8-yl]-malonic acid | O=C1N(C(C=2NC(=NC2N1CCC)C1CC2CCC(C1)C2C(C(=O)O)C(=O)O)=O)CCC | C22H30N4O6
